US05202449
Ten grams of a crude minocycline [HPLC. purity, 94.8% (percentage area)] was suspended at 15° to 20° C. in a mixed solvent of 30 ml of water and 45 ml of methanol and dissolved at a pH of 0.8 to 1.0 by adding conc. hydrochloric acid with stirring. Subsequently, 1 g of activated carbon and 10 mg of EDTA.2Na were added, and after 30 minutes' stirring, the activated carbon was separated by filtration. To the filtrate was added dropwise a 5% aqueous sodium hydroxide solution to adjust the pH of the filtrate to 4.0, whereby minocycline precipitated in the form of a hydrochloride. This hydrochloride was separated by filtration and dried in vacuo to obtain 11.0 g of a purified minocycline hydrochloride dihydrate [HPLC. purity, 99.4% (area percentage)].

reactant | minocycline | Ten grams | CN(C)C1=CC=C(C2=C1C[C@H]3C[C@H]4[C@@H](C(=C(C(=O)[C@]4(C(=C3C2=O)O)O)C(=O)N)O)N(C)C)O | C23H27N3O7
reactant | water | 30 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | EDTA | 10 mg | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | methanol | 45 ml | CO | CH4O
product | minocycline hydrochloride dihydrate | 11.0 g, 99.4% | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C=CC(=C4C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O)O)N(C)C.O.O.Cl | InChI=1S/C23H27N3O7.ClH.2H2O/c1-25(2)12-5-6-13(27)15-10(12)7-9-8-11-17(26(3)4)19(29)16(22(24)32)21(31)23(11,33)20(30)14(9)18(15)28;;;/h5-6,9,11,17,27-28,31,33H,7-8H2,1-4H3,(H2,24,32);1H;2*1H2/t9-,11-,17-,23-;;;/m0.../s1
